US04249015
A stream of dry oxygen was passed through a stirred solution (heated at 30°-35° C.) of 1-(2-cyclododecen-1-yl)-2,2,2-trichloroethyl acetate (12 g; 35 m. moles) in methanol (10 ml) and a solution of cupric chloride dihydrate (0.19 g; 1.1 m. moles) and 1,10-phenanthroline hydrate (0.56 g; 2.85 m. moles) in methanol (45 ml) in which sodium (1.39 g; 6.0 m. moles) had been dissolved was added portionwise over a period of 225 minutes. The mixture was then diluted with dilute hydrochloric acid (100 ml), extracted with ether (3×50 ml) and the combined ether extracts were washed with aqueous sodium carbonate solution (50 ml) and water (50 ml). The dried (MgSO4) extract was evaporated and the crude product (4.7 g) distilled to give methyl 2-cyclododecene-1-carboxylate (3.9 g; 56%), b.p. 90°-110° C./0.1 mm. G.L.C. analysis indicated a purity of 85%.

reactant | oxygen | O=O | O2
reactant | 1-(2-cyclododecen-1-yl)-2,2,2-trichloroethyl acetate | 12 g | C(C)(=O)OC(C(Cl)(Cl)Cl)C1C=CCCCCCCCCC1 | C16H25Cl3O2
reactant | 1,10-phenanthroline hydrate | 0.56 g | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
reactant | sodium | 1.39 g | [Na] | Na
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 45 ml | CO | CH4O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | methyl 2-cyclododecene-1-carboxylate | 3.9 g, 56% | C1(C=CCCCCCCCCC1)C(=O)OC | C14H24O2
